US04460770
9.6 g of triphenyl(methoxymethyl)phosphonium chloride were suspended in 50 ml of t-butyl methyl ether while gassing with argon and treated portionwise at -10° C. with 3.39 g of solid potassium t-butylate. After completion of the addition, the mixture was stirred at 0° to 5° C. for a further 30 minutes and then the deep orange, partially heterogeneous mixture was treated dropwise within 10 minutes with a solution of 2.30 g of 4-cyanocyclohexanone in 20 ml of t-butyl methyl ether. In so doing, the internal temperature should not exceed 5° C. After completion of the addition, the now yellow-orange mixture was warmed to 25° C. and stirred for a further 2 hours. 50 ml of a 2% sodium hydrogen carbonate solution were subsequently added and the separated, aqueous phase was extracted twice with 50 ml of diethyl ether each time. The organic phases were washed with 50 ml of saturated sodium chloride solution, dried over potassium carbonate and concentrated. The residual, semi-crystalline, orange oil was triturated with 400 ml of hexane, cooled to -20° C. and freed from precipitated triphenylphosphine oxide by filtration (rinsing with cold hexane). Low-pressure chromatography (0.4 bar) of the concentrated residue on silica gel using 10% ethyl acetate/petroleum ether as the eluant gave 1.60 g (56%) of 4-(methoxymethylene)cyclohexanecarbonitrile as a colourless oil (purity 97%).

reactant | triphenyl(methoxymethyl)phosphonium chloride | 9.6 g | [Cl-].C1(=CC=CC=C1)[P+](COC)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-cyanocyclohexanone | 2.30 g | C(#N)C1CCC(CC1)=O | C7H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | t-butyl methyl ether | 50 ml | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
product | 4-(methoxymethylene)cyclohexanecarbonitrile | 1.60 g, 56% | COC=C1CCC(CC1)C#N | C9H13NO
